US05708008
5-methanesulfonylamino-3-(1-propyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
Beginning with 1.50 gm (7.1 mMol) 5-methanesulfonylamino-1H-indole and 1.4 mL (9.3 mMol) 1-propyl-4-piperidone, 2.1 gm (88.2%) of the title compound were recovered as a yellow powder.

reactant | 5-methanesulfonylamino-1H-indole | 7.1 mMol, 1.50 gm | CS(=O)(=O)NC=1C=C2C=CNC2=CC1 | C9H10N2O2S
reactant | 1-propyl-4-piperidone | 9.3 mMol, 1.4 mL | C(CC)N1CCC(CC1)=O | C8H15NO
product | 5-methanesulfonylamino-3-(1-propyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 2.1 gm, 88.2% | CS(=O)(=O)NC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)CCC | C17H23N3O2S
